US06706725B1
d) 5-(2-Ethyl-[1,3]dioxolan-2-yl)-2-thienylmethyl Methanesulphonate
9.25 g (43.2 mmol) of [5-(2-ethyl-[1,3]dioxolan-2-yl)-2-thienyl]methanol are dissolved in 500 mL of dichloromethane and cooled to 0° C. 9.0 mL (64.7 mmol) of triethylamine are added, followed by 3.5 mL of methylsulphonyl chloride (45.3 mmol). After stirring for 1 hour, the reaction medium is treated with ammonium chloride solution and extracted with dichloromethane. The organic phases are combined, dried and concentrated under reduced pressure. A brown oil is obtained (m=9.28 g; Y=75%).

reactant | [5-(2-ethyl-[1,3]dioxolan-2-yl)-2-thienyl]methanol | 43.2 mmol, 9.25 g | C(C)C1(OCCO1)C1=CC=C(S1)CO | C10H14O3S
reactant | triethylamine | 64.7 mmol, 9.0 mL | C(C)N(CC)CC | C6H15N
reactant | methylsulphonyl chloride | 45.3 mmol, 3.5 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 5-(2-Ethyl-[1,3]dioxolan-2-yl)-2-thienylmethyl Methanesulphonate | CS(=O)(=O)OCC=1SC(=CC1)C1(OCCO1)CC | C11H16O5S2
